data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_56070_1,[C:1](/[C:4](=[N:6]\[H:11])[O:7]/[C:3](=[N:2]/[H:8])[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:4]([N:2]([C:3]([N:5]([H:9])[H:10])=[O:7])[H:8])=[N:6]\[H:11])([H:12])([H:13])[H:14],36.50355749997104
MR_495754_0,[C:1]1(=[O:7])[O:4][O:5][C:2]([N:3]([H:10])[H:11])([O:6][H:9])[O:8]1>>[C:1]([O:4][O:5][C:2]([N:3]([H:10])[H:11])=[O:8])([O:6][H:9])=[O:7],48.12234750002787
MR_145956_1,[C:1]([N:2]([C:3](=[C:5]([H:13])[H:14])[O:6][H:7])[H:8])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:4]([H:9])[H:10])([C:5](/[C:3](=[N:2]\[H:8])[O:6][H:7])([H:13])[H:14])([H:11])[H:12],58.132854999971926
MR_458658_1,[C:1](/[C:4](=[N:6]\[C:2]([O:5][N:3]([H:8])[H:9])=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]([O:5][N:3]([H:8])[H:9])([N:6][C:2][N:7][H:10])[H:11])([H:12])([H:13])[H:14],46.41931249997597
MR_172329_1,[C:1](/[C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:10])=[N:6]/[H:8])([N:5]([H:7])[H:9])([H:11])[H:12]>>[C:1](/[C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:7])=[N:6]/[H:8])([N:5]([H:9])[H:10])([H:11])[H:12],40.19325750000078
MR_377448_1,[C:1]([C:2]([C:4]([C:3]([H:15])([H:16])[H:17])([O:6][H:10])[O:8][H:9])([N:5]([H:13])[H:14])[H:12])(=[O:7])[H:11]>>[C:1]([C:2]([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:5]([H:13])[H:14])[H:12])([O:6][H:10])([O:7][H:9])[H:11],31.71008499998152
MR_537013_1,[N:1]([C:5](=[C:2]([N:3]([H:10])[H:12])[N:4]([H:11])[H:13])[H:14])([O:6][H:9])[N:7]=[O:8]>>[N:1](=[C:5](\[C:2]([N:3]([H:10])[H:12])([N:4]([H:11])[H:13])[N:7]=[O:8])[H:14])\[O:6][H:9],30.6125875000059
MR_237163_1,[C:1]([C:3]([H:18])([H:19])[H:20])([N:5]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:7](=[C:8]([C:6](/[C:4]([H:21])([H:22])[H:23])=[N:9]\[H:12])\[H:14])[H:13])[H:11]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:7](/[C:8]([N:5]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6]([C:4]([H:21])([H:22])[H:23])=[N:9]\[H:12])[H:14])[H:13])[H:11],68.72756500001046
MR_213134_1,[C:1](/[C:7](=[N:8]\[C:2](=[C:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[N:4]([H:9])[H:10])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]1([H:15])[C:3]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[C:2]([N:4]([H:9])[H:10])=[N:8]1)([H:16])([H:17])[H:18],42.48237749999973
MR_405661_1,[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])([N:6]([O:7][H:8])[H:9])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:6]([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])[H:9])([O:7][H:8])[H:10],65.58065249996574
MR_94269_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([N:6]=[C:5]([H:14])[H:15])[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:3]1([C:2]([H:11])([H:12])[H:13])[C:4]([H:7])=[N:6][C:5]1([H:14])[H:15])([H:8])([H:9])[H:10],48.43421500000737
MR_278565_1,[C:1]([C:3](/[N:7]=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])=[N:8]/[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[N:7][C:4]([C:2]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[N:8]1[N:5]([H:9])[H:10])([H:13])([H:14])[H:15],55.94476250003893
MR_620323_1,[C:1]([N:3]([O:7][H:9])[H:11])(/[C:5](=[C:4](\[C:2]([H:16])([H:17])[H:18])[O:8][H:10])[N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:3]([H:11])[C@:5]1([C:4]([C:2]([H:16])([H:17])[H:18])([O:7][H:9])[O:8][H:10])[N:6]([H:12])[H:13],64.9857825000052
MR_574753_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])([N:5]([H:9])[H:10])[O:6][H:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])[C:4]([C:3]([H:15])([H:16])[H:17])([O:6][H:8])[N:7]1[H:11],53.86460000001179
MR_303251_1,[C:1]([N:3]([O:7][H:8])[H:9])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:15])([H:16])[H:17])[C@:6]([N:3]([O:7][H:8])[H:9])([N:5]([H:10])[H:11])[H:14])([H:12])[H:13],55.420172499972296
MR_42280_0,[C:1]([N:3][N:4][C:2]([H:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[N:3][N:4]([C:2]([H:5])([H:9])[H:10])[H:8])([H:6])[H:7],65.00837249998384
MR_405566_0,[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[C:5]([H:13])[H:14])=[C:6]([H:15])[H:16])([O:7][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3]([C:2]([N:4]([H:9])[H:10])=[C:5]([H:13])[H:14])([C:6]([H:8])([H:15])[H:16])[O:7]1,62.51531500003608
MR_201729_0,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:5](\[C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:12])[H:13])([O:7][H:10])[O:8][H:9])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:7][H:10])[O:8][H:9])([N:6]([H:12])[H:13])[H:11],67.4248749999822
MR_153985_0,[C:1]([C:4]1([C:6](=[O:9])[H:10])[C:5]([C:2]([H:15])([H:16])[H:19])([C:3]([H:17])([H:18])[H:20])[C:7]([H:11])=[N:8]1)([H:12])([H:13])[H:14]>>[C:1](/[C:4]([C:6](=[O:9])[H:10])=[N:8]/[C:7](=[C:5]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])[H:11])([H:12])([H:13])[H:14],18.661222500004016
MR_319729_0,[C:1]([C:2]([H:9])([H:11])[H:12])([C:3]([H:10])([H:13])[H:14])([C:5]1[N:4]([H:7])[N:6]1)[H:8]>>[C:1]([C:2]([H:9])([H:11])[H:12])([C:3]([H:10])([H:13])[H:14])([N:6][C:5][N:4][H:7])[H:8],28.226205000002835
